US06900215B2
2-(5-Bromo-2-fluorophenyl)thiazole (50 mg, 0.2 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (0.3 mmol) by the method of Example 32. Purification by chromatography on silica gel eluting with dichloromethane containing 1% methanol gave 3-[4-fluoro-3-(thiazol-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as a yellow solid: δH (400 MHz, CDCl3) 7.29 (1H, d, J 7), 7.44 (1H, dd, J 11 and 9), 7.56-7.62 (2H, m), 7.97 (1H, dd, J 3 and 2), 8.15 (1H, s), 8.57 (1H, dd, J 7 and 2), 8.86 (1H, d, J 7); m/z (ES+) 364 (M++H).

reactant | 2-(5-Bromo-2-fluorophenyl)thiazole | 0.2 mmol, 50 mg | BrC=1C=CC(=C(C1)C=1SC=CN1)F | C9H5BrFNS
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 0.3 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-[4-fluoro-3-(thiazol-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C=2SC=CN2 | C16H8F4N4S
